US07423044B2
6-Phenyl-2-pyridin-4-yl-pyrimidin-4-ol
The title compound was prepared from 3-oxo-3-phenyl-propionic acid ethyl ester and isonicotinamidine hydrochloride according to general procedure 1. 1H NMR (DMSO-d6, 400 MHz) δ 7.08 (s, 1H), 7.50-7.55 (m, 3H), 8.17-8.25 (m, 4 H), 8.88 (d, J=4.4 Hz, 2H), 10-12 (br s, 1H); MS: m/z(ESI) 250 (M+H).

reactant | 3-oxo-3-phenyl-propionic acid ethyl ester | C(C)OC(CC(C1=CC=CC=C1)=O)=O | C11H12O3
reactant | isonicotinamidine hydrochloride | Cl.C(C1=CC=NC=C1)(=N)N
product | 6-Phenyl-2-pyridin-4-yl-pyrimidin-4-ol | C1(=CC=CC=C1)C1=CC(=NC(=N1)C1=CC=NC=C1)O | C15H11N3O
